US07968552B2
3′-({4-[(3,5-Dioxo-1,2,4-oxadiazolidin-2-yl)methyl]phenoxy}methyl)-2-methylbiphenyl-4-carboxylic acid (10.8 mg) was dissolved in a THF-methanol [1 ml, 4:1 (v/v)] mixed solution, and the solution was added to pyrrolidine (3.2 mg). DMT-MM (12 mg) was added, followed by overnight stirring at room temperature. Thereafter, chloroform was added to the reaction liquid, and the organic layer was washed with 1 M hydrochloric acid. The organic layer was concentrated, and the residue was purified by a fractional HPLC (Waters, product name: Waters SunFire™ Prep C18OBD™ (19×100 mm, 5 μm)) to obtain 2-(4-{[2′-methyl-4′-(pyrrolidin-1-ylcarbonyl)biphenyl-3-yl]methoxy}benzyl)-1,2,4-oxadiazolidine-3,5-dione (8.2 mg).

reactant | 3′-({4-[(3,5-Dioxo-1,2,4-oxadiazolidin-2-yl)methyl]phenoxy}methyl)-2-methylbiphenyl-4-carboxylic acid | 10.8 mg | O=C1N(OC(N1)=O)CC1=CC=C(OCC=2C=C(C=CC2)C2=C(C=C(C=C2)C(=O)O)C)C=C1 | C24H20N2O6
reactant | pyrrolidine | 3.2 mg | N1CCCC1 | C4H9N
reactant | DMT-MM | 12 mg | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | THF methanol | 1 ml | C1CCOC1.CO
product | 2-(4-{[2′-methyl-4′-(pyrrolidin-1-ylcarbonyl)biphenyl-3-yl]methoxy}benzyl)-1,2,4-oxadiazolidine-3,5-dione | 8.2 mg | CC1=C(C=CC(=C1)C(=O)N1CCCC1)C1=CC(=CC=C1)COC1=CC=C(CN2OC(NC2=O)=O)C=C1 | C28H27N3O5
